US04871730
To a solution of benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)-vinylthio]-3-cephem-4-carboxylate (syn isomer) (1 g) in a mixture of methanol (10 ml) and tetrahydrofuran (5 ml) was added conc. hydrochloric acid (0.31 ml) at ambient temperature and the mixture was stirred at the same temperature for 4 hours. To the reaction mixture were added water and ethyl acetate and the mixture was adjusted to pH 7 with a saturated aqueous solution of sodium bicarbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to give benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (syn isomer) (0.86 g).

reactant | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)-vinylthio]-3-cephem-4-carboxylate | 1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C34H28N6O6S3
reactant | hydrochloric acid | 0.31 ml | Cl | ClH
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 0.86 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C33H28N6O5S3
